US07932282B2
A solution of 3-methyl-1-(1-methyl-1H-imidazol-2-yl)-2-oxo-4-imidazolidinecarboxylic acid (166 mg, 0.517 mmol) and N-ethyl morpholine (0.397 ml, 3.10 mmol) in dichloromethane (5 ml) was treated with 1-hydroxybenzotriazole hydrate (95 mg, 0.620 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (99 mg, 0.517 mmol) and stirred at room temperature for 10 minutes. 1-[2-Chloro-3-(trifluoromethyl)phenyl]methanamine (108 mg, 0.517 mmol) was then added and the reaction stirred overnight at room temperature. The reaction mixture was diluted with dichloromethane and washed with saturated sodium hydrogen carbonate solution, water and brine, separated through a hydrophobic frit and the organic layer was reduced under vacuum. The residue was purified by mass-directed automated HPLC to give N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-1-(1-methyl-1H-imidazol-2-yl)-2-oxo-4-imidazolidinecarboxamide (67 mg, 29.6% yield). LC/MS [M+H]+=416, retention time=1.89 minutes.

reactant | 3-methyl-1-(1-methyl-1H-imidazol-2-yl)-2-oxo-4-imidazolidinecarboxylic acid | 0.517 mmol, 166 mg | CN1C(N(CC1C(=O)O)C=1N(C=CN1)C)=O | C9H12N4O3
reactant | N-ethyl morpholine | 3.10 mmol, 0.397 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.620 mmol, 95 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.517 mmol, 99 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-[2-Chloro-3-(trifluoromethyl)phenyl]methanamine | 0.517 mmol, 108 mg | ClC1=C(C=CC=C1C(F)(F)F)CN | C8H7ClF3N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-1-(1-methyl-1H-imidazol-2-yl)-2-oxo-4-imidazolidinecarboxamide | 67 mg, 29.6% yield | ClC1=C(C=CC=C1C(F)(F)F)CNC(=O)C1N(C(N(C1)C=1N(C=CN1)C)=O)C | C17H17ClF3N5O2
